US09193693B2
Step 2. 3-(4-Methylpiperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid
Solutions of methyl 3-(4-methylpiperazin-1-yl)-2-phenylquinoxaline-6-carboxylate (249.7 mg, 0.55 mmol, 1.00 equiv.) in THF/MeOH (1:1) (20 mL) and sodium hydroxide (138 mg, 3.45 mmol, 5.00 equiv) in water (1.5 mL) were placed in a 50-mL round bottom flask, stirred for 3 hrs at 30° C. in an oil bath, concentrated under vacuum, and washed with DCM. This resulted in 90 mg (45%) of 3-(4-methylpiperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(4-methylpiperazin-1-yl)-2-phenylquinoxaline-6-carboxylate | 0.55 mmol, 249.7 mg, 1.00 equiv. | CN1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C21H22N4O2
reactant | sodium hydroxide | 3.45 mmol, 138 mg, 5.00 equiv | [OH-].[Na+]
solvent | THF MeOH | 20 mL | C1CCOC1.CO
solvent | water | 1.5 mL | O | H2O
product | 3-(4-Methylpiperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid | CN1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C20H20N4O2
